US04960895
Production of 4'-Hexadecyl-2,2':6',2"-terpyridine
4'-Methanesulfonyl-2,2':6',2"-terpyridine (4.67 g, 0.015 mol) and hexadecyl alcohol (2.42 g, 0.010 mol) were added to N,N-dimethylformamide (0.1 liter). At 15°C., sodium hydride (60% content, oil dispersion, 0.8 g) was added thereto over a period of about 10 minutes. The entire solution was stirred for 30 minutes and then the reaction mixture was reacted under reflux for 4 hours. After cooling to room temperature, the reaction mixture was poured into an aqueous 4 M sodium chloride solution (0.3 liter). The crystal that precipitated was taken out by filtration under suction and then washed with water and hexane. The crystal was again dissolved in chloroform and washed with 1 M hydrochloric acid and water. The organic layer was dried over anhydrous sodium sulfate and then concentrated. The resulting crystal was recrystallized from hexane to obtain 4.36 g of the above-entitled product (T-6). Yield: 92%. m.p. 97.5° to 99.0° C.

reactant | 4'-Methanesulfonyl-2,2':6',2"-terpyridine | 0.015 mol, 4.67 g | CS(=O)(=O)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C16H13N3O2S
reactant | hexadecyl alcohol | 0.010 mol, 2.42 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | sodium chloride | 4 M, 0.3 liter | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 0.1 liter | CN(C=O)C | C3H7NO
product | 4'-Hexadecyl-2,2':6',2"-terpyridine | 4.36 g, Yield: 92% | C(CCCCCCCCCCCCCCC)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C31H43N3
